US06083943
(12) (2R*,3S*,5S*)-1-Benzyloxycarbonyl-5-(tert-butyldimethylsilyloxy)methyl-3-carbamoyl-2-phenylpiperidine
Under an atmosphere of N2, a 2.0M solution of Me3Al in PhMe (Aldrich, 140 ml, 280 mmol) was added dropwise to a stirred and ice-cooled suspension of NH4Cl (14.92 g, 279 mmol) in dry PhMe (280 ml). After the addition was complete, the reaction mixture was allowed to stirr at room temperature for 30 minutes; at this point, solid NH4Cl disappeared completely, and the clear, homogeneous mixture resulted. To this was added a solution of (2R*,3S*,5S*)-1-benzyloxycarbonyl-5-(tert-butyldimethylsilyloxy)methyl-3-methoxycarbonyl-2-phenylpiperidine (13.88 g, 27.89 mmol) in dry PhMe (30.0 ml) dropwise at room temperature: on the addition, the reaction mixture became turbid. This was stirred and heated at a bath temperature of 50 C. overnight (ca. 20 hours). The turbid white reaction mixture was ice-cooled; and H2O (80.0 ml, 4.40 mol) was added carefully, wherein H2 gas evolved violently. The resultant white precipitates were filtered off by the aid of Celite, and washed with AcOEt (80 ml×5). The combined filtrate and AcOEt washings were washed with sat. NaCl aq. solution (×2), dried (MgSO4), and concentrated in vacuo to give a viscous colorless oil (13.76 g). This was flash chromatographed over SiO2 (Merck Kieselgel 60, 100 g). Elution with n-hexane-AcOEt (5:1/2:1/1:1) gave title compound (11.10 g, 82.4%) as a colorless syrup. IRmax (film): 3405(s), 3340(s), 3200(s), 3100(w), 3070(m), 3045(m), 1735(m), 1675(br., v.s), 1610(s), 1498(s), 1160(s), 1100(s), 836(s), 775(s), 737(s) cm-1 ; 1H-NMR δ: 7.42-7.18(m, 10H), 5.83(d, J=5.1 Hz, 1H), 5.67(br.s, 1H), 5.47(br.s, 1H), 5.20(d, J=12.5 Hz, 1H), 5.13(d, J=12.5 Hz, 1H), 3.91(br.d, J=13.9 Hz, 1H), 3.63(dd, J=10.0, 6.8 Hz, 1H), 3.53(dd, J=10.0, 7.7 Hz, 1H), 3.08(dd,J=13.9, 7.7 Hz, 1H), 2.98(ddd,J=17.6, 5.1, 4.8 Hz, 1H), 2.25-1.91(m, 3H), 0.87(s, 9H), 0.02(s, 6H) ppm.

reactant | Me3Al | C[Al](C)C
reactant | NH4Cl | 279 mmol, 14.92 g | [NH4+].[Cl-]
reactant | (2R*,3S*,5S*)-1-benzyloxycarbonyl-5-(tert-butyldimethylsilyloxy)methyl-3-methoxycarbonyl-2-phenylpiperidine | 27.89 mmol, 13.88 g | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H](C[C@@H](C1)CO[Si](C)(C)C(C)(C)C)C(=O)OC)C1=CC=CC=C1 | C28H39NO5Si
reactant | H2O | 4.40 mol, 80.0 ml | O | H2O
solvent | PhMe | 280 ml | C1(=CC=CC=C1)C | C7H8
solvent | PhMe | 30.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | PhMe | 280 mmol, 140 ml | C1(=CC=CC=C1)C | C7H8
product | (2R*,3S*,5S*)-1-Benzyloxycarbonyl-5-(tert-butyldimethylsilyloxy)methyl-3-carbamoyl-2-phenylpiperidine | 13.76 g | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H](C[C@@H](C1)CO[Si](C)(C)C(C)(C)C)C(N)=O)C1=CC=CC=C1 | C27H38N2O4Si
